US05968962
Step 5: N-Carbobenzyloxy-3-(N-carbobenzyloxy-3-fluoroanilin-4-yl)-3-methylazetidin
A 500 mL round bottom flask equipped with a magnetic spinbar and addition funnel was charged with 85 mL water, 38.4 g sodium bicarbonate (0.46 mol) and a solution of 9.82 g 3-(4-amino-2-fluorophenyl)-3-methylazetidine (0.051 mol theory) in 165 mL acetone. The resulting orange suspension was cooled to 0° C. and treated with 43 mL benzylchloroformate (0.30 mol) with gas evolution and the reaction turning a light yellow color. The cooling bath was removed and the reaction mixture was stirred at room temperature for 65 hours. TLC indicates incomplete consumption of the starting aminoaniline and an additional 12.8 g sodium bicarbonate (0.15 mol) and 14 mL benzylchloroformate (0.10 mol) was added with additional gas evolution. After two hours, the reaction mixture was diluted with 350 mL saturated sodium bicarbonate and extracted three times with ethyl acetate (300 mL). The combined organics were washed once with water (200 mL), once with brine (200 mL), dried over MgSO4, filtered, and concentrated to give 29.86 g of a light yellow oil. This crude material was purified by LC on 850 g (230-400) silica gel eluting with 25% ethyl acetate/hexanes to afford 11.67 g (51% ) of the title compound as a light yellow solid. Rf 0.18 (25% ethyl acetate/hexanes); IR (neat) 1735, 1707, 1693, 1600, 1534, 1455, 1424, 1414, 1221, 1081 cm-1 ; 1H NMR (300 MHz, CDCl3) δ7.35 (m, 11H, aromatic), 6.96 (m, 3H, aromatic & NH), 5.19 (s, 2H, Ph--CH2), 5.09 (s, 2H, Ph--CH2), 4.30 (d, 2H, J=8.2 Hz, N--CH2a s), 4.00 (d, 2H, J=8.4 Hz, N--CH2b s), 1.59 (s, 3H, CH3); 13C NMR (75 MHz, CDCl3) 160.4 (d, JCF =245 Hz), 156.6, 153.0, 138.1 (d, JCF =11 Hz), 136.5, 135.7, 128.6, 128.4, 128.2, 127.9, 127.8, 127.5, 127.0, 126.9, 113.9, 106.6 (d, JCF =27 Hz), 67.1, 66.6, 60.8, 60.2, 36.1, 28.2; Anal. Calcd for C26H25N2O4F1 : C, 69.63; H, 5.62; N, 6.25. Found: C, 69.37; H, 5.69; N, 5.87.

reactant | water | 85 mL | O | H2O
reactant | 3-(4-amino-2-fluorophenyl)-3-methylazetidine | 0.051 mol, 9.82 g | NC1=CC(=C(C=C1)C1(CNC1)C)F | C10H13FN2
reactant | benzylchloroformate | 0.30 mol, 43 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | benzylchloroformate | 0.10 mol, 14 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | acetone | 165 mL | CC(=O)C | C3H6O
solvent | sodium bicarbonate | 350 mL | C([O-])(O)=O.[Na+]
solvent | sodium bicarbonate | 0.15 mol, 12.8 g | C([O-])(O)=O.[Na+]
solvent | sodium bicarbonate | 0.46 mol, 38.4 g | C([O-])(O)=O.[Na+]
product | N-Carbobenzyloxy-3-(N-carbobenzyloxy-3-fluoroanilin-4-yl)-3-methylazetidin | 29.86 g | C(=O)(OCC1=CC=CC=C1)N1CC(C1)(C)C1=C(C=C(NC(=O)OCC2=CC=CC=C2)C=C1)F | C26H25FN2O4
